US07074798B2
c) 7-Allyl-1,3-dimethyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione
A mixture of 4-(7-allyl-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)piperazine-1-carboxylic acid tert-butyl ester (1.5 g), trifluoroacetic acid (3 ml), and dichloromethane (10 ml) was stirred at room temperature for 3 hours. The reaction solution was concentrated under reduced pressure. Water (10 ml) and 5 M potassium carbonate aqueous solution (5 ml) were added to the residue, extracted with dichloromethane, then the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give 750 mg of the title compound.

reactant | 4-(7-allyl-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)piperazine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC=C)=O)C)=O)C | C19H28N6O4
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Allyl-1,3-dimethyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione | 750 mg | C(C=C)N1C(=NC=2N(C(N(C(C12)=O)C)=O)C)N1CCNCC1 | C14H20N6O2
